US07612212B2
To a solution of (2R)-(4-amino-phenyl)-tert-butoxycarbonylamino-acetic acid (100 mg, 0.376 mmol) in dichloromethane (2 mL) was added pyridine (36 μL, 0.45 mmol) and acetic anhydride (42 μL, 0.44 mmol) and the mixture stirred at ambient temperature for 2 hours. The reaction mixture was diluted with dichloromethane, washed with 1M aqueous citric acid solution, brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography over silica gel gradient eluted from 0 to 10% v/v methanol in dichloromethane to afford (2R)-(4-acetylamino-phenyl)-tert-butoxycarbonylamino-acetic acid as a yellow solid (59 mg, 51%).

reactant | (2R)-(4-amino-phenyl)-tert-butoxycarbonylamino-acetic acid | 0.376 mmol, 100 mg | NC1=CC=C(C=C1)[C@H](C(=O)O)NC(=O)OC(C)(C)C | C13H18N2O4
reactant | pyridine | 0.45 mmol, 36 μL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.44 mmol, 42 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (2R)-(4-acetylamino-phenyl)-tert-butoxycarbonylamino-acetic acid | 59 mg, 51% | C(C)(=O)NC1=CC=C(C=C1)[C@H](C(=O)O)NC(=O)OC(C)(C)C | C15H20N2O5
